US09388195B2
A) Production of tert-butyl 4-(2-hydroxyethyl)piperidine-1-carboxylate
To a mixed solution of 2-piperidin-4-ylethanol (5.0 g), water (12 mL) and 2-methylpropan-2-ol (9 mL) was added sodium hydroxide (1.6 g) at 0° C., and the reaction system was stirred for 30 min. di-tert-Butyl dicarbonate (8.5 g) was added by small portions, and the reaction system was stirred overnight at room temperature. The reaction system was poured into water (100 mL), and the mixture was extracted with ethyl acetate (200 mL). The extract was washed with water and brine, and concentrated to give the title compound (8.8 g).

reactant | 2-piperidin-4-ylethanol | 5.0 g | N1CCC(CC1)CCO | C7H15NO
reactant | sodium hydroxide | 1.6 g | [OH-].[Na+]
reactant | di-tert-Butyl dicarbonate | 8.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 100 mL | O | H2O
solvent | 2-methylpropan-2-ol | 9 mL | CC(C)(C)O | C4H10O
solvent | water | 12 mL | O | H2O
product | tert-butyl 4-(2-hydroxyethyl)piperidine-1-carboxylate | 8.8 g | OCCC1CCN(CC1)C(=O)OC(C)(C)C | C12H23NO3
